US05214037
To a solution of 7β-phenylacetamido-3-(1,2,3-triazol-4-yl)thiomethylthio-3-cephem-4-carboxylic acid diphenylmethyl ester (629 mg: 1 mMol.) in dichloromethane (7 ml) under ice cooling are added pyridine (162μl : 2 mMol.) and phosphrus pentachloride (380 mg: 1.8 mMol.), and the mixture is stirred at room temperature for 40 minutes. The solution is dropwise added into a solution of 1,3-butanediol (0.46 ml) in dichloromethane (2 ml) at -30° C. After stirring under ice cooling for 30 minutes, the reaction mixture is diluted with water and extracted with dichloromethane. The extract is dried over sodium sulfate and concentrated under reduced pressure. The residue gives powder (518 mg) containing 7β-amino-3-(1,2,3-triazol-4-yl)thiomethylthio-3-cephem-4-carboxylic acid diphenylmethyl ester hydrochloride from ethyl acetate--dichloromethane. This powder (100 mg) is suspended in dichloromethane, shaken with 5% aqueous sodium hydrogen carbonate, dried over sodium sulfate, and concentrated under reduced pressure. The residue is purified by silica gel chromatography to give 7β-amino-3-(1,2,3-triazol-4-yl)thiomethylthio-3-cephem-4-carboxylic acid diphenylmethyl ester (10 mg). Yield: 10%.

reactant | 7β-amino-3-(1,2,3-triazol-4-yl)thiomethylthio-3-cephem-4-carboxylic acid diphenylmethyl ester hydrochloride | Cl.C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=S)C1=C(CS[C@H]2N1C([C@H]2N)=O)CSC=2N=NNC2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 7β-amino-3-(1,2,3-triazol-4-yl)thiomethylthio-3-cephem-4-carboxylic acid diphenylmethyl ester | 10 mg, Yield: 10% | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=S)C1=C(CS[C@H]2N1C([C@H]2N)=O)CSC=2N=NNC2 | C23H21N5O2S3
